US05874398
166 g (1 mol) of ethylvanillin and 160 g (1.33 mol) of N,N-dimethylbenzylamine are introduced into 800 ml of tert-butyl methyl ether in a stirred apparatus with the exclusion of moisture. 128 g (1.2 mol) of isobutyroyl chloride are added over the course of 1.5 h, during which the reaction temperature rises to about 38° C. The reaction mixture is stirred overnight at room temperature and then poured into about 1 l of water. The organic phase is separated off, washed with hydrochloric acid, 5% sodium hydroxide solution and water, dried and evaporated, giving a residue of 238 g of crude ethylvanillin isobutyrate, which is recrystallized from 240 ml of isopropanol. Yield 215 g of ethylvanillin isobutyrate; m.p. 57° C.

reactant | ethylvanillin | 1 mol, 166 g | O=CC1=CC(OCC)=C(O)C=C1 | C9H10O3
reactant | N,N-dimethylbenzylamine | 1.33 mol, 160 g | CN(C)CC1=CC=CC=C1 | C9H13N
reactant | tert-butyl methyl ether | 800 ml | COC(C)(C)C | C5H12O
reactant | isobutyroyl chloride | 1.2 mol, 128 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | water | about 1 l | O | H2O
product | ethylvanillin isobutyrate | 238 g | C(C(C)C)(=O)O.O=CC1=CC(OCC)=C(O)C=C1 | InChI=1S/C9H10O3.C4H8O2/c1-2-12-9-5-7(6-10)3-4-8(9)11;1-3(2)4(5)6/h3-6,11H,2H2,1H3;3H,1-2H3,(H,5,6)
